US05219871
Preparation of 2,2-diphenyl-5-[N-(3-methylphenethyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.3 g-see Preparation 3), 3-methylphenethyl bromide (0.21 g), anhydrous potassium carbonate (0.5 g) and acetonitrile (20 ml) was heated under reflux for 8 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 0.23 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.3 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 3-methylphenethyl bromide | 0.21 g | CC=1C=C(CCBr)C=CC1 | C9H11Br
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(3-methylphenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC(=CC=C1)C)C1=CC=CC=C1 | C27H32N2O
